US08558000B2
To a 250 mL vessel, N-(4-(3-chloro-2-(diphenylmethyleneamino)pyridin-4-yloxy)-3-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (100.0 g, 147.7 mmoles, 1.0 eq) and methanol (900 mL) were charged. The white slurry was cooled to 10° C. and concentrated HCl (16.3 g, 163.3 mmoles, 1.105 eq) was added, maintaining the reaction temperature below 10° C. The reaction mixture was held at 10° C. for approximately 2.5 h, until HPLC indicated ≦0.5 relative area percent of starting material. Water (500 mL) and MTBE (500 mL) were added and the reaction mixture was warmed to 20° C. Next, 1N NaOH (184.08 g, 177.0 mL, 177 mmoles, 1.20 eq), was added dropwise over 20 minutes while maintaining the temperature between 15 and 20° C. The resulting slurry was cooled to 10° C. and aged for at least 10 minutes. The precipitate was filtered off, and the cake washed with water (2×350 mL), followed by a mixture of methanol:MTBE (10:90) (1×300 mL). Next, the cake was dried in a vacuum oven at 50-60° C. until LOD analysis indicated less than 1 wt % of volatiles. N-(4-(2-amino-3-chloropyridin-4-yloxy)-3-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide: 79.5 g (95% yield with 98.1 AP and 99.4 wt % potency). The resulting product (35.0 g) was subsequently re-crystallized from THF (367.2 mL)/EtOH (200 proof, 244.8 mL)/n-heptane (350 mL) to obtain N-(4-(2-amino-3-chloropyridin-4-yloxy)-3-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (30.8 g) in 88% yield with >99.9 AP and 99.7 wt % potency.

reactant | N-(4-(3-chloro-2-(diphenylmethyleneamino)pyridin-4-yloxy)-3-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 147.7 mmoles, 100.0 g, 1.0 eq | ClC=1C(=NC=CC1OC1=C(C=C(C=C1)NC(=O)C=1C(N(C=CC1OCC)C1=CC=C(C=C1)F)=O)F)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C38H27ClF2N4O4
reactant | methanol | 900 mL | CO | CH4O
reactant | HCl | 163.3 mmoles, 16.3 g, 1.105 eq | Cl | ClH
reactant | NaOH | 177 mmoles, 1N, 177.0 mL, 184.08 g, 1.20 eq | [OH-].[Na+]
solvent | MTBE | 500 mL | CC(C)(C)OC | C5H12O
solvent | Water | 500 mL | O | H2O
product | N-(4-(2-amino-3-chloropyridin-4-yloxy)-3-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 30.8 g, 88% yield | NC1=NC=CC(=C1Cl)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C=CC1OCC)C1=CC=C(C=C1)F)=O)F | C25H19ClF2N4O4
